US07423159B2
To a mixture of 5-(4-nitrobenzyl)-1,3,4-oxadiazol-2(3H)-one (1.50 g), iodoethane (1.59 g) and N,N-dimethylformamide (50 mL) was added sodium hydride (60% in oil, 0.30 g) at room temperature. The reaction mixture was stirred at room temperature for 3 hrs. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-ethyl-5-(4-nitrobenzyl)-1,3,4-oxadiazol-2(3H)-one as colorless crystals (0.99 g, yield 59%) from a fraction eluted with hexane-ethyl acetate (3:1-2:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 108-109° C.

reactant | 5-(4-nitrobenzyl)-1,3,4-oxadiazol-2(3H)-one | 1.50 g | [N+](=O)([O-])C1=CC=C(CC2=NNC(O2)=O)C=C1 | C9H7N3O4
reactant | iodoethane | 1.59 g | ICC | C2H5I
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.30 g | [H-].[Na+]
solvent | Water | O | H2O
product | 3-ethyl-5-(4-nitrobenzyl)-1,3,4-oxadiazol-2(3H)-one | 0.99 g, yield 59% | C(C)N1C(OC(=N1)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11N3O4
